US06403830B2
S-(2-aminoethyl)-L-cysteine, methyl ester
A 10 g (50 mmol) sample of S-(2-aminoethyl)-L-cysteine was dissolved in 400 mL of methanol. Into this cooled solution was bubbled in anhydrous HCl for 30 minutes. After stirring at room temperature overnight, the solution was concentrated to afford 12.7 g of the title compound.

reactant | S-(2-aminoethyl)-L-cysteine | NCCSC[C@H](N)C(=O)O | C5H12N2O2S
reactant | methanol | 400 mL | CO | CH4O
product | S-(2-aminoethyl)-L-cysteine, methyl ester | 12.7 g | NCCSC[C@H](N)C(=O)OC | C6H14N2O2S
